US07790724B2
c) 2-(4,4-Dimethyl-cyclohex-1-enyl)-4-(1-trimethylstannanyl-1H-tetrazol-5-ylmethyl)-phenylamine
A mixture of [4-amino-3-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-acetonitrile (as prepared in the previous step, 417 mg, 1.73 mmol) and azidotrimethylstannane (428 mg, 2.08 mmol) in toluene (8 mL) was heated at reflux for 40 h. The reaction was allowed to cool to room temperature and then filtered. The precipitate was washed with 20 mL of toluene and dried under vacuum to afford 410 mg (53%) of the title compound as a white solid. Mass spectrum (ESI, m/z): Calcd. for C16H21N5, 284.1 (M-SnMe3+2H), found 284.1.

reactant | [4-amino-3-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-acetonitrile | NC1=C(C=C(C=C1)CC#N)C1=CCC(CC1)(C)C | C16H20N2
reactant | azidotrimethylstannane | 2.08 mmol, 428 mg | N(=[N+]=[N-])[Sn](C)(C)C
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4,4-Dimethyl-cyclohex-1-enyl)-4-(1-trimethylstannanyl-1H-tetrazol-5-ylmethyl)-phenylamine | 410 mg, 53% | CC1(CC=C(CC1)C1=C(C=CC(=C1)CC1=NN=NN1[Sn](C)(C)C)N)C | InChI=1S/C16H20N5.3CH3.Sn/c1-16(2)7-5-12(6-8-16)13-9-11(3-4-14(13)17)10-15-18-20-21-19-15;;;;/h3-5,9H,6-8,10,17H2,1-2H3;3*1H3;/q-1;;;;+1
